US08895547B2
N-[1-(2-Chloro-3-fluorophenyl)meth-(E)-ylidene]-2-methylpropane-2-sulfinamide
2-Chloro-3-fluorobenzaldehyde (2.5 g) and (R)-(+)-2-methyl-2-propanesulfinamide were dissolved in dichloromethane (50 ml), and then titanium(IV) isopropoxide (23.6 ml) was added. The mixture was heated for three hours under reflux, then poured onto ice (150 g) and stirred vigorously for ten minutes. The mixture was filtered through kieselguhr and the filtrate was extracted with dichloromethane (3×50 ml). The organic phase was dried (Na2SO4), filtered and concentrated under reduced pressure. The product (4 g) was used further without further purification.

reactant | 2-Chloro-3-fluorobenzaldehyde | 2.5 g | ClC1=C(C=O)C=CC=C1F | C7H4ClFO
reactant | (R)-(+)-2-methyl-2-propanesulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | titanium(IV) isopropoxide | 23.6 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | N-[1-(2-Chloro-3-fluorophenyl)meth-(E)-ylidene]-2-methylpropane-2-sulfinamide | ClC1=C(C=CC=C1F)\C=N\S(=O)C(C)(C)C | C11H13ClFNOS
